US04728650
An aqueous solution of potassium hydroxide (7.1 g in 10 ml of water) was added dropwise to a solution composed of 10 g (0.036 mol) of 3-(3,4-dihydro-6-hydroxy-2,5,7,8-tetramethyl-2H-benzopyran-2-yl)propionic acid and 200 ml of ethanol in a nitrogen atmosphere and the mixture was stirred at room temperature for 30 minutes. The ethanol was distilled off from the reaction mixture under reduced pressure, toluene was added to the residue, and dehydration was effected azeotropically under reduced pressure. To the residue thus obtained, 200 ml of N,N-dimethylformamide was added for dissolution of the residue. To the solution was added dropwise, with vigorous stirring, 4.53 g (3.4 ml) of dimethyl sulfate while maintaining the solution at a temperature of room temperature to 50° C. After the addition, the reaction was conducted at 50° C. for 5 hours. After cooling to room temperature, the reaction mixture was poured into dilute hydrochloric acid and extracted with diethyl ether. The extract was washed with water and then with a saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate and then filtered. Low-boiling substances were distilled off from the filtrate under reduced pressure and the residue was purified by silica gel column chromatography to give 5.9 g (53.6% yield) of methyl 3-(3,4-dihydro-6-methoxy-2,5,7,8-tetramethyl-2H-benzopyran-2-yl)propionate

reactant | potassium hydroxide | 10 ml, 7.1 g | [OH-].[K+]
reactant | 3-(3,4-dihydro-6-hydroxy-2,5,7,8-tetramethyl-2H-benzopyran-2-yl)propionic acid | 0.036 mol, 10 g | OC=1C(=C(C2=C(CCC(O2)(C)CCC(=O)O)C1C)C)C | C16H22O4
reactant | dimethyl sulfate | 3.4 ml, 4.53 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | hydrochloric acid | Cl | ClH
reactant | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | methyl 3-(3,4-dihydro-6-methoxy-2,5,7,8-tetramethyl-2H-benzopyran-2-yl)propionate | 5.9 g, 53.6% yield | COC=1C(=C(C2=C(CCC(O2)(C)CCC(=O)OC)C1C)C)C | C18H26O4
